US07560551B2
To 4-(4-methoxybenzyl)phthalazin-1(2H)-one (1.18 g, 4.43 mmol) was added phosphorus oxychloride (4.13 ml, 44.3 mmol). A water condenser was attached and the mixture was heated to reflux under a nitrogen atmosphere for 15 hours. The reaction was concentrated in vacuo, diluted with methylene chloride and ice water, then quenched with solid sodium bicarbonate until pH was basic and gas evolution ceased. The layers were separated and the organic layers were dried over sodium sulfate, filtered through a pad of silica gel using EtOAc and concentrated to yield 1-(4-methoxybenzyl)-4-chlorophthalazine as a light orange solid. MS m/z=285 [M+1]+. Calc'd for C16H13ClN2O: 284.75.

reactant | 4-(4-methoxybenzyl)phthalazin-1(2H)-one | 4.43 mmol, 1.18 g | COC1=CC=C(CC2=NNC(C3=CC=CC=C23)=O)C=C1 | C16H14N2O2
reactant | phosphorus oxychloride | 44.3 mmol, 4.13 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(4-methoxybenzyl)-4-chlorophthalazine | COC1=CC=C(CC2=NN=C(C3=CC=CC=C23)Cl)C=C1 | C16H13ClN2O
